US20010027196A1
4-Cyclohexyloxy-6-furan-2-yl-5-nitro-pyrimidin-2-yl-amine
From trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester, cyclohexanol and DBU in DME. ES-MS m/e (%): 305 (M+H+, 100), 223 ([M+H—C6H10]+, 80).

reactant | trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=1OC=CC1 | C9H5F3N4O6S
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 4-Cyclohexyloxy-6-furan-2-yl-5-nitro-pyrimidin-2-yl-amine | C1(CCCCC1)OC1=NC(=NC(=C1[N+](=O)[O-])C=1OC=CC1)N | C14H16N4O4
